US06333082B1
Preparation of 4-Cyano-4′-[(E, E)-hexa-2,4-dienyloxy]biphenyl
Triphenylphosphine (0.95 g, 0.0036 mol) was added in small portions to a solution of (E, E)-hexa-2,4-dien-1-ol (0.40 g, 0.0040 mol), 4-cyano-4′-hydroxybiphenyl (0.71 g, 0.0036 mol) diethylazodicarboxylate (0.63 g, 0.0036 mol) in dry diethyl ether (40 cm3), cooled in an ice bath under an atmosphere of nitrogen. The reaction mixture was stirred at room temperature overnight. The solvent was removed under reduced pressure and the crude product was purified by column chromatography on silica gel using a 4:1 petroleum (40-60° C.) ether/ethyl acetate mixture as eluent, followed by recrystallisation from ethanol to yield 0.19 g (19%) of the pure ether, K 125° C. N-I 152° C.

reactant | Triphenylphosphine | 0.0036 mol, 0.95 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (E, E)-hexa-2,4-dien-1-ol | 0.0040 mol, 0.40 g | C(\C=C\C=C\C)O | C6H10O
reactant | 4-cyano-4′-hydroxybiphenyl | 0.0036 mol, 0.71 g | C(#N)C1=CC=C(C=C1)C1=CC=C(C=C1)O | C13H9NO
solvent | diethyl ether | 40 cm3 | C(C)OCC | C4H10O
product | 4-Cyano-4′-[(E, E)-hexa-2,4-dienyloxy]biphenyl | C(#N)C1=CC=C(C=C1)C1=CC=C(C=C1)OC\C=C\C=C\C | C19H17NO
